US07897601B2
5-(2,4-Dichlorophenyl)-4-methylpenta-2,4-dienoic acid [3-(4-chlorophenyl)allyl]amide (1.25 g, 0.0032 mol) was dissolved in CH2Cl2 (20 mL). To this mixture was added, Et3N (0.443 mL, 1 eq), Boc2O (1.39 g, 2 eq), and DMAP (0.39 g, 1 eq). After stirring for 16 hours, the mixture was diluted with CH2Cl2, washed with NH4Cl(sat), and dried (MgSO4). Silica gel chromatography (5% EtOAc in hexanes) gave 1.43 g of [3-(4-Chlorophenyl)allyl]-[5-(2,4-dichlorophenyl)-4-methylpenta-2,4-dienoyl]carbamic acid tert-butyl ester.

reactant | 5-(2,4-Dichlorophenyl)-4-methylpenta-2,4-dienoic acid [3-(4-chlorophenyl)allyl]amide | 0.0032 mol, 1.25 g | ClC1=CC=C(C=C1)C=CCNC(C=CC(=CC1=C(C=C(C=C1)Cl)Cl)C)=O | C21H18Cl3NO
reactant | Et3N | 0.443 mL, 1 eq | CCN(CC)CC | C6H15N
reactant | Boc2O | 1.39 g, 2 eq | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.39 g, 1 eq | CN(C)C=1C=CN=CC1 | C7H10N2
product | [3-(4-Chlorophenyl)allyl]-[5-(2,4-dichlorophenyl)-4-methylpenta-2,4-dienoyl]carbamic acid tert-butyl ester | 1.43 g | C(C)(C)(C)OC(N(C(C=CC(=CC1=C(C=C(C=C1)Cl)Cl)C)=O)CC=CC1=CC=C(C=C1)Cl)=O | C26H26Cl3NO3
